US07671074B2
N-[amino-(4-methylpiperazin-1-yl-amino)-methylene]-4-methylbenzenesulfonamide (8)
The compound of Example 8 was prepared according to the accompanying synthesis procedure from 0.5 ml of N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide solution (0.2 M, acetonitrile) with 19 mg of methanesulfonic acid and 0.5 ml of N-amino-4-methylpiperazine solution (1.0 M, acetonitrile) and filed in a substance databank. Calculated mol. wt. 311.40; found mol. wt. (M+H) 312.2; 623.0 (Dimer)

reactant | N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide | 0.2 M, 0.5 ml | CC1=NN(C(=C1)C)C(NS(=O)(=O)C1=CC=C(C=C1)C)=N | C13H16N4O2S
reactant | methanesulfonic acid | 19 mg | CS(=O)(=O)O | CH4O3S
reactant | N-amino-4-methylpiperazine | 1.0 M, 0.5 ml | NN1CCN(CC1)C | C5H13N3
product | N-[amino-(4-methylpiperazin-1-yl-amino)-methylene]-4-methylbenzenesulfonamide | NC(=NS(=O)(=O)C1=CC=C(C=C1)C)NN1CCN(CC1)C | C13H21N5O2S
